### PR TITLE
[Merged by Bors] - feat(Chebyshev/RootsExtrema): bound iterated derivatives of Chebyshev T on [-1, 1]

### PR DESCRIPTION
**Pull request by YuvalFilmus**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 1]
```diff
@@ -489,6 +490,33 @@ theorem T_eq_X_mul_U_sub_U (n : ℤ) : T R (n + 2) = X * U R (n + 1) - U R n :=
     show n + 2 + 1 - 2 = n + 1 by ring] at h
   linear_combination (norm := ring_nf) h
 
+theorem twice_T_eq_U_sub_U (n : ℤ) : 2 * T R (n + 2) = U R (n + 2) - U R n := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]:
```suggestion
theorem two_mul_T_eq_U_sub_U (n : ℤ) : 2 * T R (n + 2) = U R (n + 2) - U R n := by
```
etc

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 2]
```diff
@@ -489,6 +490,33 @@ theorem T_eq_X_mul_U_sub_U (n : ℤ) : T R (n + 2) = X * U R (n + 1) - U R n :=
...
+  linear_combination (norm := ring_nf) (T_eq_U_sub_X_mul_U R (n + 2)) + (T_eq_X_mul_U_sub_U R n)
+
+theorem U_eq_twice_T_add_U (n : ℤ) : U R (n + 2) = 2 * T R (n + 2) + U R n := by
+  linear_combination (norm := ring_nf) - (twice_T_eq_U_sub_U R n)
+
+theorem U_mem_span_T (n : ℕ) : U R n ∈ Submodule.span ℕ {T R m | m ∈ Finset.Icc 0 n} := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]:
```suggestion
theorem U_mem_span_T (n : ℕ) : U R n ∈ Submodule.span ℕ {T R m | m ∈ Set.Icc 0 n} := by
```
since this is a regular set you're passing in; you could even consider
```suggestion
theorem U_mem_span_T (n : ℕ) : U R n ∈ Submodule.span ℕ (T R m '' Set.Icc 0 n) := by
```
which is probably easier to apply lemmas to.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 3]
```diff
@@ -489,6 +490,33 @@ theorem T_eq_X_mul_U_sub_U (n : ℤ) : T R (n + 2) = X * U R (n + 1) - U R n :=
...
+  induction n using Nat.twoStepInduction
+  case zero => simp
+  case one =>
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: Please prefer the ` with` `| zero => ` spelling to `case`

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 4]
```diff
@@ -489,6 +490,33 @@ theorem T_eq_X_mul_U_sub_U (n : ℤ) : T R (n + 2) = X * U R (n + 1) - U R n :=
...
+    push_cast; rw [U_eq_twice_T_add_U, ← smul_eq_mul]; norm_cast
+    refine Submodule.add_mem _ ?_ ((Submodule.span_mono (by grind)) h₀)
+    · exact Submodule.smul_of_tower_mem _ 2 (Submodule.mem_span_of_mem ⟨n + 2, by simp⟩)
+
+/-- `T` defines an injection from `ℕ` to `R[X]` given by `T R n` -/
+noncomputable def Tnat [IsDomain R] [NeZero (2 : R)] : ℕ ↪ R[X] :=
+{
+  toFun m := T R m
+  inj' m₁ m₂ hm := by convert congrArg Polynomial.degree hm; simp [degree_T]
+}
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: Please use `where` notation instead of  `{}`s

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 5]
```diff
@@ -489,6 +490,33 @@ theorem T_eq_X_mul_U_sub_U (n : ℤ) : T R (n + 2) = X * U R (n + 1) - U R n :=
...
+
+theorem setOf_T_eq_map [IsDomain R] [NeZero (2 : R)] (n : ℕ) :
+    {T R m | m ∈ Finset.Icc 0 n} = (Finset.Icc 0 n).map (Tnat (R := R)) := by grind
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: This lemma looks pretty fishy to me.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 6]
```diff
@@ -841,6 +869,36 @@ theorem T_derivative_eq_U (n : ℤ) : derivative (T R n) = n * U R (n - 1) := by
     linear_combination (norm := (push_cast; ring_nf))
       -ih2 + 2 * (X : R[X]) * ih1 + h₁ + 2 * h₃ + (n + 1) * h₂
 
+theorem T_derivative_mem_span_T (n : ℕ) :
+    derivative (T R n) ∈ Submodule.span ℕ {T R m | m ∈ Finset.Icc 0 (n - 1)} := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]:
```suggestion
    derivative (T R n) ∈ Submodule.span ℕ {T R m '' Set.Ico 0 n} := by
```
seems more natural

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/RootsExtrema.lean [hunk 7]
```diff
@@ -318,4 +323,25 @@ theorem irrational_of_isRoot_T_real {n : ℕ} {x : ℝ} (hroot : (T ℝ n).IsRoo
...
+  let g (m : ℕ) := if hm : m ∈ Finset.Icc 0 (n - k) then f ⟨(T ℝ m), by simp [Tnat, hm]⟩ else 0
+  have : ∑ m ∈ Finset.Icc 0 (n - k), g m • (T ℝ m) = ∑ a, f a • a.val := by
+    rw [Finset.univ_eq_attach]
+    apply Finset.sum_bij (fun m hm => ⟨T ℝ m, by simp [Tnat, hm]⟩) (by simp)
+    case i_inj => intros; grind
+    case i_surj => aesop
+    grind
+  replace hf (y : ℝ) :
+    ∑ m ∈ Finset.Icc 0 (n - k), g m * (T ℝ m).eval y = (derivative^[k] (T ℝ n)).eval y := by
+    rw [← hf, ← this, eval_finset_sum]; congr; simp
```
Comment (eric-wieser) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/RootsExtrema.lean]:
```suggestion
  replace hf (y : ℝ) :
      ∑ m ∈ Finset.Icc 0 (n - k), g m * (T ℝ m).eval y = (derivative^[k] (T ℝ n)).eval y := by
    rw [← hf, ← this, eval_finset_sum]; congr; simp
```
to separate the statement from the proof, just as we do with `theorem`

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 5 above)
Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean]: Removed

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 8]
```diff
@@ -489,6 +490,24 @@ theorem T_eq_X_mul_U_sub_U (n : ℤ) : T R (n + 2) = X * U R (n + 1) - U R n :=
     show n + 2 + 1 - 2 = n + 1 by ring] at h
   linear_combination (norm := ring_nf) h
 
+theorem two_mul_T_eq_U_sub_U (n : ℤ) : 2 * T R (n + 2) = U R (n + 2) - U R n := by
+  linear_combination (norm := ring_nf) (T_eq_U_sub_X_mul_U R (n + 2)) + (T_eq_X_mul_U_sub_U R n)
+
+theorem U_eq_two_mul_T_add_U (n : ℤ) : U R (n + 2) = 2 * T R (n + 2) + U R n := by
+  linear_combination (norm := ring_nf) - (two_mul_T_eq_U_sub_U R n)
+
+theorem U_mem_span_T (n : ℕ) : U R n ∈ Submodule.span ℕ ((fun m : ℕ => T R m) '' Set.Icc 0 n) := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:499]: Why not
```suggestion
theorem U_mem_span_T (n : ℕ) : U R n ∈ Submodule.span ℕ ((T R ·) '' Set.Icc 0 n) := by
```
since the `Icc 0` already bounds the inputs to `T` to be non-negative?

Comment (eric-wieser) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:499]: Oh I see, perhaps because `n` is a natural. Is this also true if `n` is an integer, perhaps using `uIcc` or `Icc 0 |n|`?

Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:499]: Mathlib is the only place I've ever seen define Chebyshev polynomials parameterized by an integer rather than by a natural number.
For Chebyshev T polynomials, we have `T R (-n) = T R n`, whereas for Chebyshev U polynomials, the symmetry is around `-1` (with a sign difference).
Working with integers makes everything very awkward, and I see no compelling reason to do so.
It complicates the proofs without giving any benefit.

I had initially tried defining it like in your suggestion, just because it's slicker, but then some of the proofs broke down.
Mathlib is notoriously bad at converting between different types of numbers, and this "generality" just seems pointless and artificial at this particular instance.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 9]
```diff
@@ -841,6 +860,34 @@ theorem T_derivative_eq_U (n : ℤ) : derivative (T R n) = n * U R (n - 1) := by
...
+    derivative^[k] (T R n) ∈ Submodule.span ℕ ((fun m : ℕ => T R m) '' Set.Icc 0 (n - k)) := by
+  induction k
+  case zero =>
+    rw [Function.iterate_zero_apply]
+    exact Submodule.mem_span_of_mem ⟨n, by simp⟩
+  case succ k ih =>
+    rw [Function.iterate_succ_apply']
+    let derivative' : R[X] →ₗ[ℕ] R[X] :=
+    { toFun := derivative, map_add' := derivative.map_add'
+      map_smul' m P := by induction m <;> simp }
```
Comment (j-loreaux) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean]: This is just `Polynomial.derivative (R := R) |>.restrictScalars ℕ` right?

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/RootsExtrema.lean [hunk 10]
```diff
@@ -318,4 +323,20 @@ theorem irrational_of_isRoot_T_real {n : ℕ} {x : ℝ} (hroot : (T ℝ n).IsRoo
     Nat.eq_of_dvd_of_div_eq_one (Nat.gcd_dvd_left ..) (by grind [Rat.den_pos])) (by grind)
   rw_mod_cast [← hk₂, hn]; convert cos_pi_div_two using 2; push_cast; field_simp
 
+theorem abs_iterate_derivative_T_real_le (n k : ℕ) {x : ℝ} (hx : |x| ≤ 1) :
+    |(derivative^[k] (T ℝ n)).eval x| ≤ (derivative^[k] (T ℝ n)).eval 1 := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/RootsExtrema.lean]: I understand you dislike the fact that Chebyshev polynomials are indexed by integers, but please note that by taking `n : ℕ`, here, this theorem is less general *even for natural number inputs* (because if you have `T ℝ (↑n₁ + ↑n₂)` then this theorem doesn't apply until you first rewrite to `↑(n₁ + n₂)`. I would instead let `n : ℤ`, then do a `wlog hn : 0 ≤ n` at the beginning of the proof. You can the `lift n to ℤ using hn` in the positive case, and the negative case you can use the fact that `T ℝ (-n) = T ℝ n`.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 11]
```diff
@@ -841,6 +860,34 @@ theorem T_derivative_eq_U (n : ℤ) : derivative (T R n) = n * U R (n - 1) := by
...
+theorem T_derivative_mem_span_T (n : ℕ) :
+    derivative (T R n) ∈ Submodule.span ℕ ((fun m : ℕ => T R m) '' Set.Ico 0 n) := by
+  by_cases! hn : n = 0
+  · simp [hn]
+  rw [T_derivative_eq_U, ← smul_eq_mul]; norm_cast
+  refine Submodule.smul_of_tower_mem _ n ?_
+  convert U_mem_span_T R (n - 1) using 2 <;> grind
+
+theorem T_iterate_derivative_mem_span_T (n k : ℕ) :
+    derivative^[k] (T R n) ∈ Submodule.span ℕ ((fun m : ℕ => T R m) '' Set.Icc 0 (n - k)) := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:872]: Is `Submodule.span` preferred to `AddSubmonoid.closure`?

Comment (YuvalFilmus) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:872]: I don't have a preference — will let the experts decide, and I can (try to) implement the decision.

Comment (j-loreaux) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:872]: I don't have a strong preference here either. I think `span ℕ` is okay. If someone wants the `AddSubmonoid.closure` version, it's just a few rewrites away, and at least this way the proof is easier because you get to use `restrictScalars`.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
